US03948854
37.2 g of 5-chloro-2-hydroxybenzoic acid hydrazide are dissolved in 200 ml of dimethylacetamide and 16 g of pyridine and 22 g of chloroformic acid ethyl ester are added simultaneously over the course of 30 minutes. The reaction mixture is subsequently heated to 90° C for 3 hours whilst stirring, cooled and poured onto 1 litre of ice water. The precipitate which has separated out slowly crystallises throughout. The N-(5-chloro-2-hydroxybenzoyl)-hydrazinecarboxylic acid ethyl ester thus obtained (Stabiliser No. 11) is isolated, washed with water and recrystallised from ethanol. Melting point 172° C.

reactant | 5-chloro-2-hydroxybenzoic acid hydrazide | 37.2 g | ClC=1C=CC(=C(C(=O)NN)C1)O | C7H7ClN2O2
reactant | pyridine | 16 g | N1=CC=CC=C1 | C5H5N
reactant | chloroformic acid ethyl ester | 22 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | dimethylacetamide | 200 ml | CC(=O)N(C)C | C4H9NO
product | N-(5-chloro-2-hydroxybenzoyl)-hydrazinecarboxylic acid ethyl ester | C(C)OC(=O)N(N)C(C1=C(C=CC(=C1)Cl)O)=O | C10H11ClN2O4
